US08283353B2
6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-4-(7-oxooxepan-4-yl)-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
To a solution of 4-(4-oxocyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one (262 mg) in acetonitrile (10 mL) was added m-chloroperbenzoic acid (129 mg), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with ethyl acetate, washed with 5% aqueous sodium thiosulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=40/60→0/100 (volume ratio)] and crystallized from a mixture of ethyl acetate and diisopropyl ether to give the title compound as colorless crystals (204 mg, 75%).

reactant | 4-(4-oxocyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 262 mg | O=C1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2 | C29H28N6O4
reactant | m-chloroperbenzoic acid | 129 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-4-(7-oxooxepan-4-yl)-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 204 mg, 75% | O=C1NC(=NO1)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)C2CCOC(CC2)=O)=O | C29H28N6O5
